data/specific_train_final.csv
"CC1(C2CC1C(C(C2)OO[O:20][N+:21](=O)[O-])(C)O)C>>CC1(C2CC1C(C(C2)OO[O:20])(C)O)C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[C:20]1(C=CC2(C([CH:21]1O)O2)C)[O:10]>>CC[C:20](=[O:10])C=CC1(C(O1)[CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:7][O:6][CH:5]([CH2:8][OH:9])[C:4]([CH3:3])[CH2:10][O:11][N+:12](=[O:14])[O-:13].[O:1][O:2]>>[H:7][O:6][CH:5]([CH2:8][OH:9])[C:4]([CH3:3])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:1][O:2] 1-1,4; 4-4,1",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)O[O:20])(C)O)C.[N+](=O)([O-])[O:10]>>CC1(CC2C1CCC(C(CCC2=C)O[O:20][O:10][N+](=O)[O-])(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:16][O:15][O:14].[CH3:1][C:2]([CH2:9][O:10][N+:11](=[O:13])[O-:12])([CH:3]([CH2:6][OH:7])[O:4][O:5])[OH:8]>>[H:16][O:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[OH:8].[O:14][O:15] 5-5,16; 16,15-5,16; 15,16-15",Room Temperature,Propagation,abstraction
"[CH2:1]=[C:2](C)[CH:3]([O:10][O:11])[CH2:4][OH:5].[N:20]=[O:21]>>[CH2:1]=[C:2](C)[CH:3]([O:10][O:11][N:20]=[O:21])[CH2:4][OH:5] 11-11,20;20-11,20",Room Temperature,Termination,recombine
"C[C:21](=[CH2:20])C.[OH:10]>>C[C:21](C)[CH2:20][OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:1][O:2][CH2:3][O:4][O:5][O:6][N+:7](=[O:8])[O-:9]>>[CH3:1][O:2][CH2:3][O:4][O:5][O:6].[N+:7](=[O:8])[O-:9] 6,7-6; 6,7-7",Room Temperature,Initiation,homolyze
"C1C(O1)O[O:20].[N:10]=O>>C1C(O1)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:20]1(C=CC2C([CH:21]1O)(O2)C)[O:10]>>C[C:20](=[O:10])C=CC1C(O1)([CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:6][C:5]1=[CH:7][CH:8]=[C:9]([C:2](=[C:3]1[CH3:4])[CH3:1])[OH:10].[OH:11]>>[CH3:6][C:5]1=[CH:7][CH:8]([C:9]([C:2](=[C:3]1[CH3:4])[CH3:1])[OH:10])[OH:11] 11-11,8; 8,9-11,8; 8,9-9",Room Temperature,Propagation,addition
"[CH3:8][C:3]([CH2:2][Cl:1])([CH:6]=[CH2:7])[O:4][O:5]>>[CH3:8][C:3]([CH2:2][Cl:1])[CH:6]=[CH2:7].[O:4][O:5] 4,3-4; 3,4-3",Room Temperature,Initiation,homolyze
"[H:20][O:21]O.CC(=O)OCCCO[O:10]>>[H:20][O:10]OCCCOC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)C(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(CO)C(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10][O:20][OH:21].O[O]>>[CH2:10]=[O:20].[OH:21].O[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][C:21](=O)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:9][CH:8]([CH2:10][OH:11])[CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:9][CH:8]([CH2:10][OH:11])[CH:6]([CH3:7])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(CCOC(=O)C)O[O:10]>>[H:20][O:10]OC(C)CCOC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C[C:20](=[C:21](C(C1O)(C)O[O:10])O)C>>CC1=C[C:20]2([C:21](C(C1O)(C)O[O:10]2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH2:21]C(C)CCC.[OH:10]>>[H:20][OH:10].CCCC(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C)C[O:21][O:20][O].[N+](=O)[O-]>>CCCC(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)CCO[O:20].[N:10]=O>>C1=CC=C(C=C1)CCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(CO)CO[O:20].[N:10]=O>>C(CO)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:10]1C=C(C=C(C1O)C)C.[O:20][O]>>CC[C:10]1(C=C(C=C(C1O)C)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[CH:21]=[CH2:20].[N+](=O)([O-])[O:10]>>CC[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:9][O:8][O:7][CH2:6][C:2]([CH3:1])([CH:3]=[CH:4][OH:5])[O:10].[He]>>[He].[H:9][O:8].[CH3:1][C:2]([CH2:6][O:7])([CH:3]=[CH:4][OH:5])[O:10] 7,8-7; 7,8-8",Light,Initiation,homolyze
"CC(=C[C:10]=O)CO[N+](=O)[O-].[O:20][O]>>CC(=C[C:10](=O)[O:20][O])CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:10]1C=CC=C(C1O)C.[O:20][O]>>CC[C:10]1(C=CC=C(C1O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=C)C(CCl)[O:20][O:21]N=O>>CC(=C)C(CCl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(O[O:20])Cl.[N:10]=O>>CC(O[O:20][N:10]=O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OCO[O:20].[N:10]=O>>CC(=O)OCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][CH2:5][C:4](=[CH:3][CH2:2][O:1])[CH2:7][O:8][N+:9](=[O:11])[O-:10]>>[H:6][O:1][CH2:2][CH:3]=[C:4]([CH2:5])[CH2:7][O:8][N+:9](=[O:11])[O-:10] 5,6-1,6;1-1,6;5,6-5",Room Temperature,Propagation,abstraction
